### PR TITLE
[Merged by Bors] - feat: Exterior of a set

### PR DESCRIPTION
**Pull request by YaelDillies**
In an Alexandrov-discrete space, every set has a smallest neighborhood. We call this neighborhood the *exterior* of the set. It is completely analogous to the interior, except that all inclusions are reversed.

---

- [x] depends on: #6981

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/AlexandrovDiscrete.lean [hunk 1]
```diff
@@ -51,3 +54,108 @@ lemma isClopen_sUnion (hS : ∀ s ∈ S, IsClopen s) : IsClopen (⋃₀ S) :=
...
+def exterior (s : Set α) : Set α := (𝓝ˢ s).ker
+
+lemma exterior_singleton_eq_ker_nhds (a : α) : exterior {a} = (𝓝 a).ker := by simp [exterior]
+
+lemma exterior_def (s : Set α) : exterior s = ⋂₀ {t : Set α | IsOpen t ∧ s ⊆ t} := by
+  ext a
+  simp only [exterior, mem_ker, mem_sInter, mem_setOf_eq, and_imp, mem_nhdsSet_iff_forall]
+  refine' ⟨λ hs t ht hts ↦ hs _ λ b hb ↦ ht.mem_nhds $ hts hb, λ hs t ht ↦ interior_subset $
+    hs (interior t) isOpen_interior _⟩
+  simpa only [←mem_interior_iff_mem_nhds] using ht
```
Comment (ADedecker) [inline Mathlib/Topology/AlexandrovDiscrete.lean:86]: Could you reformulate [Filter.HasBasis.sInter_sets](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases.html#Filter.HasBasis.sInter_sets) in terms of `Filter.ker` and use that here?

File: Mathlib/Topology/AlexandrovDiscrete.lean [hunk 2]
```diff
@@ -51,3 +54,108 @@ lemma isClopen_sUnion (hS : ∀ s ∈ S, IsClopen s) : IsClopen (⋃₀ S) :=
 
 lemma isClopen_iUnion (hf : ∀ i, IsClopen (f i)) : IsClopen (⋃ i, f i) :=
 ⟨isOpen_iUnion λ i ↦ (hf i).1, isClosed_iUnion λ i ↦ (hf i).2⟩
+
+lemma interior_iInter (f : ι → Set α) : interior (⋂ i, f i) = ⋂ i, interior (f i) :=
+(interior_maximal (iInter_mono λ _ ↦ interior_subset) $ isOpen_iInter λ _ ↦
+  isOpen_interior).antisymm' $ subset_iInter λ _ ↦ interior_mono $ iInter_subset _ _
```
Comment (ADedecker) [inline Mathlib/Topology/AlexandrovDiscrete.lean:60]: I'm pretty sure that our new convention is to indent the body of all declarations, even in term mode. Also, `<|` is preferred to `$`, and `fun` to `λ`.

File: Mathlib/Topology/AlexandrovDiscrete.lean [hunk 3]
```diff
@@ -51,3 +54,108 @@ lemma isClopen_sUnion (hS : ∀ s ∈ S, IsClopen s) : IsClopen (⋃₀ S) :=
...
+  simp only [exterior, mem_ker, mem_sInter, mem_setOf_eq, and_imp, mem_nhdsSet_iff_forall]
+  refine' ⟨λ hs t ht hts ↦ hs _ λ b hb ↦ ht.mem_nhds $ hts hb, λ hs t ht ↦ interior_subset $
+    hs (interior t) isOpen_interior _⟩
+  simpa only [←mem_interior_iff_mem_nhds] using ht
+
+lemma subset_exterior_iff : s ⊆ exterior t ↔ ∀ U, IsOpen U → t ⊆ U → s ⊆ U := by
+  simp [exterior_def]
+
+lemma interior_subset_iff : interior s ⊆ t ↔ ∀ U, IsOpen U → U ⊆ s → U ⊆ t := by
+  simp [interior]
```
Comment (ADedecker) [inline Mathlib/Topology/AlexandrovDiscrete.lean:92]: Could you move that next to [subset_interior_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#subset_interior_iff)?

File: Mathlib/Topology/AlexandrovDiscrete.lean [hunk 4]
```diff
@@ -51,3 +54,108 @@ lemma isClopen_sUnion (hS : ∀ s ∈ S, IsClopen s) : IsClopen (⋃₀ S) :=
...
+@[simp] lemma isOpen_exterior : IsOpen (exterior s) := by
+  rw [exterior_def]; exact isOpen_sInter $ λ _ ↦ And.left
+
+@[simp] lemma exterior_eq_iff_isOpen : exterior s = s ↔ IsOpen s :=
+  ⟨λ h ↦ h ▸ isOpen_exterior, IsOpen.exterior_eq⟩
+
+@[simp] lemma exterior_subset_iff_isOpen : exterior s ⊆ s ↔ IsOpen s := by
+  simp only [exterior_eq_iff_isOpen.symm, Subset.antisymm_iff, subset_exterior, and_true]
+
+lemma exterior_subset : exterior s ⊆ t ↔ ∃ U, IsOpen U ∧ s ⊆ U ∧ U ⊆ t :=
```
Comment (ADedecker) [inline Mathlib/Topology/AlexandrovDiscrete.lean:125]:
```suggestion
lemma exterior_subset_iff : exterior s ⊆ t ↔ ∃ U, IsOpen U ∧ s ⊆ U ∧ U ⊆ t :=
```

To match [subset_interior_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#subset_interior_iff)

File: Mathlib/Topology/AlexandrovDiscrete.lean [hunk 5]
```diff
@@ -51,3 +54,108 @@ lemma isClopen_sUnion (hS : ∀ s ∈ S, IsClopen s) : IsClopen (⋃₀ S) :=
...
+⟨λ h ↦ ⟨exterior s, isOpen_exterior, subset_exterior, h⟩,
+  λ ⟨_U, hU, hsU, hUt⟩ ↦ (exterior_minimal hsU hU).trans hUt⟩
+
+lemma exterior_subset_iff_mem_nhds : exterior s ⊆ t ↔ t ∈ 𝓝ˢ s :=
```
Comment (ADedecker) [inline Mathlib/Topology/AlexandrovDiscrete.lean:129]:
```suggestion
lemma exterior_subset_iff_mem_nhdsSet : exterior s ⊆ t ↔ t ∈ 𝓝ˢ s :=
```

Could you also add that the exterior is a neighborhood of `s`?

File: Mathlib/Topology/AlexandrovDiscrete.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/AlexandrovDiscrete.lean:60]: How is `<|` preferred over `$`? This does not appear in the [style guide](https://leanprover-community.github.io/contribute/style.html).

Comment (YaelDillies) [reply Mathlib/Topology/AlexandrovDiscrete.lean:60]: I'm not looking for style suggestions, really. Especially when they involve more ASCII art than the alternative.

Comment (ADedecker) [reply Mathlib/Topology/AlexandrovDiscrete.lean:131]: I'm unresolving this at least for the indentation part, which is clearly stated in the style guide.

Comment (ADedecker) [reply Mathlib/Topology/AlexandrovDiscrete.lean:131]: Regarding "mathportism", I really don't think that's what's happening here. People have already spent quite some time doing new maths in Lean4, and there's been complains about a lot of things but almost none about this. I can't speak for everyone, but at least I willingly embraced the new style for the most part, and not because it was used by mathport.

Of course that doesn't mean that it's clearly better, but I would say that for now it's better to stick to what's used in the existing *human-written* codebase, and that means `fun` and `<|`.

Comment (YaelDillies) [reply Mathlib/Topology/AlexandrovDiscrete.lean:131]: Then your argument is saying that I can stick to `λ` and `$`: `λ` is used 395 times across 79 files, and `$` at least 619 times across 202 files.

Again, I am not looking for style suggestions.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
